US09145429B2
A mixture of compound 2,6-dihydroxynicotinamide (20 g, 0.13 mol) and NIS (29.2 g, 0.13 mol) in DCM (1000 mL) was stirred at r.t for 20 min. The mixture was concentrated in vacuo to afford crude compound 2,6-dihydroxy-5-iodonicotinamide. (50 g) which was used for the next step directly. 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 11.04 (bs, 1H), 8.46 (s, 1H), 2.55 (s, 4H).

reactant | 2,6-dihydroxynicotinamide | 0.13 mol, 20 g | OC1=C(C(=O)N)C=CC(=N1)O | C6H6N2O3
reactant | NIS | 0.13 mol, 29.2 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DCM | 1000 mL | C(Cl)Cl | CH2Cl2
product | 2,6-dihydroxy-5-iodonicotinamide | OC1=C(C(=O)N)C=C(C(=N1)O)I | C6H5IN2O3
